US05039691
2,2-DIPHENYL-4-PENTENOIC ACID
A solution of diphenylacetic acid (250 g., 1.17 mol ) in 2.4 L of tetrahydrofuran was stirred at 0° C. under argon while 0.94 L of a 2.5M solution on n-butyllithium in hexane was added dropwise. After 1 hour, allyl bromide (142.5 g, 1.17 mole) was added in one portion. After 15 minutes, 500 mL of 10% hydrochloric acid was added, along with ether (2 L). The layers were separated, the aqueous layer extracted with ethyl ether (1×250 mL), the organic layers combined, washed with brine, dried (MgSO4), and filtered. Concentration afforded 296 g (99%) of an off-white solid, mp 134°-137° C. 1H NMR (CDCl3)δ 7.3 (m, 10H), 5.6 (m, 1H), 4.9 (bs, 2H), 3.2 (d, 2H).

reactant | diphenylacetic acid | 1.17 mol, 250 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | allyl bromide | 1.17 mole, 142.5 g | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | 500 mL | Cl | ClH
reactant | ether | 2 L | CCOCC | C4H10O
solvent | tetrahydrofuran | 2.4 L | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2,2-DIPHENYL-4-PENTENOIC ACID | 296 g, 99% | C1(=CC=CC=C1)C(C(=O)O)(CC=C)C1=CC=CC=C1 | C17H16O2
